US07354701B2
A mixture of 2-amino-5-bromothiazole hydrobromide (13.0 g, 0.05 mol, available from Acros Organics) and 1-butanethiol (4.5 g, 0.05 mol) in ethanol (50 ml) was heated under reflux on a steam-bath for 30 h. The mixture was then allowed to stand at room temperature for 18 h before being distilled under reduced pressure. Water (25 ml) was added to the residue followed by the cautious addition of 0.88 ammonia (25 ml). The mixture was stirred at room temperature for 4 h, then the resulting beige solid was filtered off, washed with water and dried to give 2-amino-5-butylthiothiazole, (Yield 6.0 g (63%)).

reactant | 2-amino-5-bromothiazole hydrobromide | 0.05 mol, 13.0 g | Br.NC=1SC(=CN1)Br
reactant | 1-butanethiol | 0.05 mol, 4.5 g | C(CCC)S | C4H10S
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-amino-5-butylthiothiazole | NC=1SC(=CN1)SCCCC | C7H12N2S2
